US04518597
Methyl 3-methoxy-anthranilate
One hundred thirty-three grams (0.63 mol) of methyl 3-methoxy-2-nitro-benzoate are dissolved in 1000 ml of toluene and hydrogenated in an autoclave at ambient temperature and under a hydrogen pressure of 5 bar in the presence of platinum over a period of two hours. The catalyst is removed by filtration, the residue is dried with sodium sulfate, and the toluene is distilled off in vacuo. Oil, RF value: 0.8 [silica gel plate; chloroform/acetone (9:1)],

reactant | methyl 3-methoxy-2-nitro-benzoate | 0.63 mol, One hundred thirty-three grams | COC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C9H9NO5
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
catalyst | platinum | [Pt] | Pt
product | Methyl 3-methoxy-anthranilate | COC1=C(C(C(=O)OC)=CC=C1)N | C9H11NO3
